US05672602
(S)-N-Methyl-2-[N'-(t-butoxycarbonyl)-allylamino]-3-phenyl-propionamide
Combine (S)-2-[N-(t-butoxycarbonyl)-allylamino]-3-phenyl-propionic acid (0.7 g, 2.29 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.50 g, 2.52 mmol), 1-hydroxybenzotriazole (0.38 g, 2.52 mmol), methylamine hydrochloride (0.17 g, 2.52 mmol) and diisopropylethylamine (0.59 mL, 2.52 mmol) in dichloromethane (23 mL) and stir for 18 hours. Dilute with ethyl acetate and extract with 1M hydrochloric acid, a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride. Dry the separated organic layer over MgSO4, filter and evaporate in vacuo. Chromatograph on silica gel eluting sequentially with 5% methanol/dichloromethane and 10% methanol/dichloromethane to give the title compound: TLC Rf =0.44 (silica gel, 30% ethyl acetate/hexane).

reactant | (S)-2-[N-(t-butoxycarbonyl)-allylamino]-3-phenyl-propionic acid | 2.29 mmol, 0.7 g | C(C)(C)(C)OC(=O)N([C@H](C(=O)O)CC1=CC=CC=C1)CC=C | C17H23NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.52 mmol, 0.50 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 2.52 mmol, 0.38 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | methylamine hydrochloride | 2.52 mmol, 0.17 g | Cl.CN
reactant | diisopropylethylamine | 2.52 mmol, 0.59 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 23 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-N-Methyl-2-[N'-(t-butoxycarbonyl)-allylamino]-3-phenyl-propionamide | CNC([C@H](CC1=CC=CC=C1)N(C(=O)OC(C)(C)C)CC=C)=O | C18H26N2O3
